US07067537B2
i) Production of 4-ethylnicotinonitrile
A solution of diisopropylamine (9.1 ml) in THF (50 ml) was cooled to −30° C. and an n-butyllithium hexane solution (1.61 M, 37 ml) was added. The mixture was stirred for 30 min. After cooling the reaction mixture to −78° C., a solution of 4-methylnicotinonitrile (7.01 g) in THF (50 ml) was added dropwise and the mixture was stirred for 15 min. Methyl iodide (9.1 ml) was added and the mixture was heated to −40° C., and saturated aqueous ammonium chloride solution was added. The reaction mixture was extracted with ethyl acetate and the organic layer was dried and concentrated. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=1:1) for purification to give the title compound (6.67 g) as a pale-yellow oil.

reactant | diisopropylamine | 9.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 1.61 M, 37 ml | CCCCCC.C(CCC)[Li]
reactant | 4-methylnicotinonitrile | 7.01 g | CC1=CC=NC=C1C#N | C7H6N2
reactant | Methyl iodide | 9.1 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-ethylnicotinonitrile | 6.67 g | C(C)C1=CC=NC=C1C#N | C8H8N2
